US05175274
a) 2-Amino-6-(cyclopropylamino)-9H-purine hydrochloride
A solution of 2-amino-6-chloropurine (4.6 g, 27.5 mmole) and cyclopropylamine (12.5 g, 220 mmole 8 equiv) in MeOH (100 ml) was heated at 50° C. for 18 hours. Then 2-methoxyethanol (50 ml) was added, and the reaction was heated at 70° C. for an additional 6 hours. After cooling, a small amount of unreacted starting material was filtered off, and the filtrate was evaporated and purified on a silica gel column eluting with CHCl3 : 5% to 10% MeOH. The product was then recrystallised twice from MeOH and once from EtOH as a hydrochloride salt to give 1.45 g, (23%) of product; m.p. 253°-257° C.,

reactant | 2-amino-6-chloropurine | 27.5 mmole, 4.6 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | cyclopropylamine | 220 mmole, 12.5 g, 8 equiv | C1(CC1)N | C3H7N
reactant | 2-methoxyethanol | 50 ml | COCCO | C3H8O2
solvent | MeOH | 100 ml | CO | CH4O
product | 2-Amino-6-(cyclopropylamino)-9H-purine hydrochloride | 23% | Cl.NC1=NC(=C2N=CNC2=N1)NC1CC1 | InChI=1S/C8H10N6.ClH/c9-8-13-6-5(10-3-11-6)7(14-8)12-4-1-2-4;/h3-4H,1-2H2,(H4,9,10,11,12,13,14);1H
